**************************************************
* Manufacturer:           Wurth Elektronik 
* Kinds:                  SMT Mono-color Reverse Mount Diffused
* Matchcode:              WL-SMRD
* Library Type:           LTspice
* Version:                rev22a
* Created/modified by:    Ella      
* Date and Time:          2022-02-21
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************
* Copyright(C) 2022 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************
.subckt 1205_156125BS57000 1 2 
D1 1 2 SMRD
.MODEL SMRD D
+ IS=11.416E-15
+ N=3.7886
+ RS=1.4842
+ IKF=213.88E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
+ TT=5.0000E-9
.ends
***********
.subckt 1205_156125GS57000 1 2 
D1 1 2 SMRD
.MODEL SMRD D
+ IS=6.1877E-9
+ N=5
+ RS=5.3132
+ IKF=888.94E-9
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
+ TT=5.0000E-9
.ends
***********
.subckt 1205_156125RS57000 1 2 
D1 1 2 SMRD
.MODEL SMRD D
+ IS=153.31E-12
+ N=4.1406
+ RS=1.0267
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
+ TT=5.0000E-9
.ends
***********
.subckt 1205_156125VS57000 1 2 
D1 1 2 SMRD
.MODEL SMRD D
+ IS=158.93E-15
+ N=3.0933
+ RS=1.2262
+ IKF=244.82E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
***********
.subckt 1205_156125YS57000 1 2 
D1 1 2 SMRD
.MODEL SMRD D
+ IS=336.45E-12
+ N=4.5346
+ RS=1.0927
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
***********



































