**************************************************
* Manufacturer:           Wurth Elektronik 
* Kinds:                  SMT Mono-color TOP LED Diffused Dome 
* Matchcode:              WL-SMTD
* Library Type:           LTspice
* Version:                rev22b
* Created/modified by:    Ella      
* Date and Time:          2022-05-10
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************
* Copyright(C) 2022 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************
.subckt 3528_150141BS63140 1 2 
D1 1 2 led
.MODEL led D
+ IS=48.651E-12
+ N=4.7513
+ RS=1.1837
+ IKF=431.41E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
+ TT=5.0000E-9
.ends
*******
.subckt 3528_150141GS63140 1 2 
D1 1 2 led
.MODEL led D
+ IS=48.651E-12
+ N=4.7513
+ RS=1.1837
+ IKF=431.41E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
+ TT=5.0000E-9
.ends
*******
.subckt 3528_150141RS63140 1 2 
D1 1 2 led
.MODEL led D
+ IS=56.578E-15
+ N=2.8031
+ RS=.55484
+ IKF=286.27E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
+ TT=5.0000E-9
.ends
*******
.subckt 3528_150141SS63140 1 2 
D1 1 2 led
.MODEL led D
+ IS=10.968E-9
+ N=2.6575
+ RS=.83316
+ IKF=283.20E-12
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
+ TT=5.0000E-9
.ends
*******
.subckt 3528_150141YS63140 1 2 
D1 1 2 led
.MODEL led D
+ IS=56.578E-15
+ N=2.8031
+ RS=.55484
+ IKF=286.27E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
+ TT=5.0000E-9
.ends
*******
.subckt 3528_150141BS63130 1 2 
D1 1 2 led
.MODEL led D
+ IS=48.651E-12
+ N=4.7513
+ RS=1.1837
+ IKF=431.41E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
.ends
*******
.subckt 3528_150141GS63130 1 2 
D1 1 2 led
.MODEL led D
+ IS=48.651E-12
+ N=4.7513
+ RS=1.1837
+ IKF=431.41E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
.ends
*******
.subckt 3528_150141RS63130 1 2 
D1 1 2 led
.MODEL led D
+ IS=56.578E-15
+ N=2.8031
+ RS=.55484
+ IKF=286.27E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
.ends
*******
.subckt 3528_150141SS63130 1 2 
D1 1 2 led
.MODEL led D
+ IS=10.968E-9
+ N=2.6575
+ RS=.83316
+ IKF=283.20E-12
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
.ends
*******
.subckt 3528_150141YS63130 1 2 
D1 1 2 led
.MODEL led D
+ IS=56.578E-15
+ N=2.8031
+ RS=.55484
+ IKF=286.27E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
.ends
*******
.subckt 3528_150141BS66130 1 2 
D1 1 2 led
.MODEL led D
+ IS=157.51E-9
+ N=4.3415
+ RS=1.8573
+ IKF=17.359E-9
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
+ TT=5.0000E-9
.ends
*******
.subckt 3528_150141GS66130 1 2 
D1 1 2 led
.MODEL led D
+ IS=157.51E-9
+ N=4.3415
+ RS=1.8573
+ IKF=17.359E-9
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
+ TT=5.0000E-9
.ends
*******
.subckt 3528_150141RS66130 1 2 
D1 1 2 led
.MODEL led D
+ IS=56.578E-15
+ N=2.8031
+ RS=.55484
+ IKF=286.27E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
+ TT=5.0000E-9
.ends
*******
.subckt 3528_150141SS66130 1 2 
D1 1 2 led
.MODEL led D
+ IS=62.148E-15
+ N=2.8197
+ RS=.56155
+ IKF=286.18E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
+ TT=5.0000E-9
.ends
*******
.subckt 3528_150141YS66130 1 2 
D1 1 2 led
.MODEL led D
+ IS=56.578E-15
+ N=2.8031
+ RS=.55484
+ IKF=286.27E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
+ TT=5.0000E-9
.ends
*******
.subckt 3528_150141BS66140 1 2 
D1 1 2 led
.MODEL led D
+ IS=48.651E-12
+ N=4.7513
+ RS=1.1837
+ IKF=431.41E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
+ TT=5.0000E-9
.ends
*******
.subckt 3528_150141GS66140 1 2 
D1 1 2 led
.MODEL led D
+ IS=48.651E-12
+ N=4.7513
+ RS=1.1837
+ IKF=431.41E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
+ TT=5.0000E-9
.ends
*******
.subckt 3528_150141RS66140 1 2 
D1 1 2 led
.MODEL led D
+ IS=56.578E-15
+ N=2.8031
+ RS=.55484
+ IKF=286.27E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
+ TT=5.0000E-9
.ends
*******
.subckt 3528_150141SS66140 1 2 
D1 1 2 led
.MODEL led D
+ IS=62.148E-15
+ N=2.8197
+ RS=.56155
+ IKF=286.18E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
+ TT=5.0000E-9
.ends
*******
.subckt 3528_150141YS66140 1 2 
D1 1 2 led
.MODEL led D
+ IS=56.578E-15
+ N=2.8031
+ RS=.55484
+ IKF=286.27E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
+ TT=5.0000E-9
.ends
*******






















